US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid diphenethyl ester hydrochloride salt
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2-phenylethanol accord-ing to the procedure of Example 1 as a colorless oil; 1H NMR (300 MHz, CDCl3): d 1.30-1.45 (brs, 3H), 2.80-2.90 (brm, 1H), 2.89 (t, J=6.9 Hz, 4H), 3.10-3.30 (brm, 2H), 3.39-3.69 (brm, H), 4.40 (t, J=6.8 Hz, 4H), 5.45-5.61 (brs, 2H), 6.70-6.91 (brm, 3H), 7.10-7.35 (complex m, 13H), 7.40-7.51 (brs, 1H), 8.60-8.85 (brs, 1H), 9.91-10.20 (brs, 1H); MS (ES) m/z (relative intensity): 630 (M+ -HCl, 40), 144 (100).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2-phenylethanol | C1(=CC=CC=C1)CCO | C8H10O
reactant | HCl | Cl | ClH
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid diphenethyl ester hydrochloride salt | Cl.C(CC1=CC=CC=C1)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCC2=CC=CC=C2 | InChI=1S/C36H36ClNO7.ClH/c1-25(38-24-31(39)29-13-8-14-30(37)23-29)21-28-15-16-32-33(22-28)45-36(44-32,34(40)42-19-17-26-9-4-2-5-10-26)35(41)43-20-18-27-11-6-3-7-12-27;/h2-16,22-23,25,31,38-39H,17-21,24H2,1H3;1H
